US07402680B2
1-Benzyl-3-(3-fluoro-phenyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine
The title compound (282.6 mg) was prepared from 0.61 g of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester, 330 μL of benzylamine, and 0.50 g of (2-nitro-vinyl)-3-fluorobenzene, using EtOH as the solvent and without SiO2. MS (ESI): exact mass calculated for C20H19FN2, 306.15; found, m/z 307.2 [M+H]+. 1H NMR (500 MHz, CD3OD): 7.38-7.32 (m, 3H), 7.30-7.26 (m, 1H), 7.20-7.14 (m, 4H), 7.10-7.06 (m, 1H), 6.95-6.90 (m, 1H), 5.15 (s, 2H), 4.36 (s, 2H), 3.50 (t, J=6.3 Hz, 2H), 2.86 (t, J=6.3 Hz, 2H).

reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 0.61 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | benzylamine | 330 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | (2-nitro-vinyl)-3-fluorobenzene | 0.50 g | [N+](=O)([O-])C=CC1=CC(=CC=C1)F | C8H6FNO2
solvent | EtOH | CCO | C2H6O
product | 1-Benzyl-3-(3-fluoro-phenyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 282.6 mg | C(C1=CC=CC=C1)N1C=C(C=2CNCCC21)C2=CC(=CC=C2)F | C20H19FN2
